US04833144
3-Phenyl-2-[(4-methylpyridin-2-yl)methylthio]-4(3H)-quinazolinone
8.7 ml of 28% methanolic solution of sodium methoxide were added to a solution of 5.0 g of 2-mercapto-3-phenyl-4(3H)-quinazolinone and 4.0 g of 2-chloromethyl-4-methylpyridine hydrochloride in methanol, and the stirring was continued at room temperature for 5 hours. The reaction solution was poured into water and extracted with chloroform. The chloroform layer was washed with an aqueous solution of sodium carbonate and dried over sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography. The fraction eluted with 8% ethyl acetate in chloroform was collected and crystallized from ethyl acetate to give 2.17 g (30.7%) of the title compound.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-mercapto-3-phenyl-4(3H)-quinazolinone | 5.0 g | SC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C14H10N2OS
reactant | 2-chloromethyl-4-methylpyridine hydrochloride | 4.0 g | Cl.ClCC1=NC=CC(=C1)C
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-Phenyl-2-[(4-methylpyridin-2-yl)methylthio]-4(3H)-quinazolinone | 2.17 g, 30.7% | C1(=CC=CC=C1)N1C(=NC2=CC=CC=C2C1=O)SCC1=NC=CC(=C1)C | C21H17N3OS
